US05142080
In a 1 liter four-neck flask equipped with a stirrer, a reflux condenser, a dropping funnel and a thermometer were placed 108.5 g (1.0 mol) of trimethylchlorosilane, 111.1 g (1.1 mol) of triethylamine and 300 ml of hexane. Thereto, 73.0 g (1.0 mol) of diethylamine was added dropwise from the dropping funnel over a 1-hour period. During the addition, the temperature of the reaction system was kept within the range of 20° C. to 60° C. to make the reaction be proceeding. At the conclusion of the addition, the temperature was raised to 50-60° C. and kept there for 2 hours, whereby the reaction was matured. Then, the reaction mixture was filtered through a glass filter to remove the salt yielded as a by-product. The filtrate was allowed to stand for one day at room temperature to precipitate the salt. The salt precipitated was filtered off, and the filtrate was subjected to distillation under ordinary pressure to obtain 136.3 g of diethylaminotrimethylsilane as a fraction having a boiling point of 125-126° C. The yield was 94%, and the chlorine concentration was 146 ppm.

reactant | trimethylchlorosilane | 1.0 mol, 108.5 g | C[Si](Cl)(C)C | C3H9ClSi
reactant | triethylamine | 1.1 mol, 111.1 g | C(C)N(CC)CC | C6H15N
reactant | diethylamine | 1.0 mol, 73.0 g | C(C)NCC | C4H11N
solvent | hexane | 300 ml | CCCCCC | C6H14
product | diethylaminotrimethylsilane | 136.3 g, yield was 94% | C(C)N(CC)[Si](C)(C)C | C7H19NSi
